US04478849
4-Carbomethoxy-3-methoxybenzaldehyde
2-Nitropropane (1.0 g) was added to sodium methoxide (from 0.24 g sodium) in methanol (30 ml) and the solution refluxed for 1/2 hour. 4-Carbomethoxy-3-methoxybenzyl bromide (2.67 g) in methanol was added and the solution refluxed for 1 hour. The methanol was evaporated, the residue partitioned between 2N sodium hydroxide and chloroform. The chloroform layer was shaken with further sodium hydroxide until no more yellow colour was extracted, dried and evaporated to yield the title compound (1.66 g). τ(CDCl3) 6.1 (3H, s), 6.05 (3H, s), 2.4-2.6 (2H, m), 2.07 (1H, d, J=8 Hz), -0.05 (1H, s).

reactant | 2-Nitropropane | 1.0 g | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | sodium methoxide | 0.24 g | C[O-].[Na+]
reactant | 4-Carbomethoxy-3-methoxybenzyl bromide | 2.67 g | C(=O)(OC)C1=C(C=C(CBr)C=C1)OC | C10H11BrO3
solvent | methanol | 30 ml | CO | CH4O
product | 4-Carbomethoxy-3-methoxybenzaldehyde | 1.66 g | C(=O)(OC)C1=C(C=C(C=O)C=C1)OC | C10H10O4
